US06100267
(a) (S)-N-(1-Hydroxymethyl-2-phenylethyl)-2-phenyl-4-quinoline-carboxamide
To a solution of 2-phenyl-4-quinoline-carboxylic acid (0.33 g, 1.3 mmol, Aldrich Chemical Company) in methylene chloride (5 mL) was added benzotriazol-1-yloxytris-(dimethyamino)phosphoniumhexafluorophosphate (BOP) (0.63 g, 1.43 mmol). The resulting mixture was shaken at room temperature for 5 min. (S)-(-)-2-arnino-3-phenyl-1-propanol (0.2 g, 1.3 mmol) was added along with triethylamine (0.2 mL, 1.43 mmol). The resulting mixture was shaken at room temperature for 24 h. Methylene chloride (10 mL) was added and the organic layer was washed with NaHCO3, H2O, brine, dried (MgSO4), filtered, and concentrated in vacuo to give an oil. The oil was purified by flash chromatography (silica gel, 30-80% EtOAc/hexane) to yield the title compound as a white solid (0.3 g, 60%). MS (ES+) m/e 383.5 [M+H]+, 405 [M+Na]+, 787 [2M+Na]+.

reactant | 2-phenyl-4-quinoline-carboxylic acid | 1.3 mmol, 0.33 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H11NO2
reactant | benzotriazol-1-yloxytris-(dimethyamino)phosphoniumhexafluorophosphate | 1.43 mmol, 0.63 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (S)-(-)-2-arnino-3-phenyl-1-propanol | 1.3 mmol, 0.2 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | triethylamine | 1.43 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-(1-Hydroxymethyl-2-phenylethyl)-2-phenyl-4-quinoline-carboxamide | 0.3 g, 60% | OC[C@H](CC1=CC=CC=C1)NC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C25H22N2O2
